US05474994
8-{2-[4-(2-Methoxyphenyl)-1-piperazinyl]ethoxycarbonylmethyl}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran dihydrochloride
The title compound was prepared by the method described in Example 5, but using Intermediate XLVII in place of 8-carboxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran and 1-(2-chloroethyl)-4-(2-methoxyphenyl)-piperazine instead of 1-(3-chloropropyl)-4-(2-methoxyphenyl)piperazine. m.p. 193°-196° C. from ethanol/diethyl ether.

reactant | 8-carboxy-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | C(=O)(O)C1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C17H12O4
reactant | 1-(2-chloroethyl)-4-(2-methoxyphenyl)-piperazine | ClCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H19ClN2O
reactant | ethanol diethyl ether | C(C)O.C(C)OCC
product | 8-{2-[4-(2-Methoxyphenyl)-1-piperazinyl]ethoxycarbonylmethyl}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran dihydrochloride | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCOC(=O)CC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | InChI=1S/C31H32N2O5.2ClH/c1-22-29(35)25-12-8-11-24(31(25)38-30(22)23-9-4-3-5-10-23)21-28(34)37-20-19-32-15-17-33(18-16-32)26-13-6-7-14-27(26)36-2;;/h3-14H,15-21H2,1-2H3;2*1H
